US08809538B2
(2E)-3-(2,3-dichlorophenyl)acryloyl Azide
Diphenylphosphoryl azide (3.00 mL) was added 2,3-dichlorocinnamic acid (3.00 g) to a room temperature suspension in benzene (20 mL) and triethylamine (2.50 mL). The reaction mixture was stirred at room temperature overnight and then concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:9) to obtain the title compound (1.77 g) having the following physical data.

reactant | Diphenylphosphoryl azide | 3.00 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2,3-dichlorocinnamic acid | 3.00 g | ClC1=C(C=CC(=O)O)C=CC=C1Cl | C9H6Cl2O2
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 2.50 mL | C(C)N(CC)CC | C6H15N
product | (2E)-3-(2,3-dichlorophenyl)acryloyl Azide | 1.77 g | ClC1=C(C=CC=C1Cl)/C=C/C(=O)N=[N+]=[N-] | C9H5Cl2N3O
